Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Unwitnessed fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M w/ PMH meningioma s/p partial resection, radiation, 
cyberknife, also w/ DM, HTN, HLD, who presents with possible 
unwitnessed fall. 
 
 Patient lives in ___ in ___. He was found by rehab 
facility staff this am on bed with lacerations to his head/ear, 
and blood on pillow and coffee table. Suspicion for fall with 
subsequent return to bed. Unfortunately, pt is unable to provide 
hx as he cannot remember last night's events. Unclear if syncope 
vs seizure. He was initially taken to OSH where CT Head and 
C-spine were negative for acute process/fracture and he was then 
transferred here for further management/evaluation.  
 Neuro H/P provided good historical background: "The patient has 
been in a rehab facility since his recent admission in ___ 
to Neuro-Oncology for an episode of confusion and gait 
instability. He was found to have seizures on EEG and started on 
AED regimen, which was ultimately titrated to keppra 750mg TID 
and divalproex ___ BID. He was discharged to rehab afterwards. 
AED levels in ___ were keppra 55 and valproate 87. On 
reevaluation in brain tumor clinic on ___, he was noted to 
have memory deficits, inattention, and was found to have a MOCA 
score of ___. Plan had been to arrange for outpatient LP to 
evaluate for presence of tauopathy for workup of dementia. He 
has remained in rehab since then. This morning, on staff rounds, 
he was found in his bed with significant bleeding from 
lacerations to his right ear and temporal region, as well as 
blood on his pillow and coffee table. The staff suspected a fall 
in the night with subsequent return to bed. They called for EMS 
who arrived and initially brought him to ___, where he 
was subsequently transferred to ___. Here, he was seen by 
Plastic surgery who repaired his right ear avulsion. Neurology 
was consulted for assistance in determining the etiology of his 
episode this morning."  
 At the OSH:  
 CT head: No acute process, unchanged meningioma  
 CT c-spine: no fracture  
 EKG: NSR w PVCs, HR 80, LA, NI, no STE, unchanged from prior  
 OSH labs: Trop x1 neg  
 Discussed with pt's daughter, HCP (lives in ___. Patient at 
baseline is AAOx3, has been disoriented like this with seizures 
in the past. He is off his mental status baseline, so we will 
admit for seizure/syncope workup. Confirmed full code status 
with daughter. Patient is also an insulin dependent diabetic.  
 In the ED, initial VS were: 98.1, 80, 128/62, 18, 100% RA.  
 Labs showed:  
 - CBC: 7.5/11.9/36.7/147  
 - INR 1.1  
 - Chem 7: ___  
 - APAP 12  
 - Serum tox: negative  
 - UA: negative  
 - LFTs: WNL  
 Imaging showed: Per ED dash, no report listed in OMR  
 CTH: No acute process, unchanged meningioma  
 CT C-spine: no fracture  
 Received:  
 18:14 Ciprofloxacin 400 mg IV ONCE  
 15:13 Acetaminophen 1000 mg PO ONCE  
 
 Transfer VS were: 98.6, 58, 130/61, 12, 96% RA  
 Plastic surgery and neurology were consulted:  
 - Plastics: Avulsion to R superior helix of ear repaired with 
___ chromic gut and ___ monocryl. Please give 1 dose of Cipro 
and Ancef. Pt to f/u in Chief resident plastic surgery clinic in 
___ weeks.  
 - Neurology:  
 - Start continuous EEG for at least ___ hours to evaluate for 
epileptogenic discharges and rule out NCSE.  
 - Obtain depakote, keppra trough levels.  
 - Maintain AEDs at current doses for now (keppra 750mg TID, 
Depakote 750mg BID), with prn Ativan 1mg iv for seizure >5 mins 
or cluster >3 in 1 hr.  
 - admit to medicine/OMED for syncope and CHF workup.  
 - Neurology will follow on appropriate consult service.  
 
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, patient is sleeping. He states that he 
is in ___ in a hospital. He states the year is ___. Does not 
remember what happened. Denies any acute pain.  
 ROS:  
 Denies headache/blurred vision/dizziness. Pupils equal & 
reactive. Denies CP/P/SOB/cough/F/C/N/V/D. Denies dysuria.  
 REVIEW OF SYSTEMS:  
 All other 10-system review negative in detail.  
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Began ___ when he slipped on the ice and hit his head. He 
was taken to the emergency room where a CAT scan revealed a left
parietal-occipital lesion. In hindsight, he had fallen over the
previous ___ years approximately three to four times when his
legs gave out.  He is status post:
1. Partial resection of meningioma on ___ by Dr. ___ 
___.
2. Involved field radiation from ___ to ___ to 5800 
cGy.
3. Cyberknife SRS ___ to 3000 cGy (600 cGy x 5 
fractions); evaluated by Surgery and is thought not to be a 
surgical risk because of involvement of his sphenoid sinuses.

PAST MEDICAL HISTORY:
Meningioma grade II
Diabetes since his early ___
Hypertension x ___ years
Hypercholesterolemia
GERD
Gynecomastia with mammillary reduction
Lyme disease
Snoring
 
Social History:
___
Family History:
No noted family history of brain disease. He denied family 
history of sudden death, cardiac disease, death at young ages, 
or epilepsy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Tc 98.4 Tm 98.4 BP 151/85 SBP 140-151 HR 77 RR 16 98% RA
Telemetry showed NSR HR ___
GENERAL: Alert and attentive, no acute distress  
HEENT: EOMi, PERRLA, MMM, oropharynx clear
NECK: supple  
CARDIAC: RRR, no murmors, rubs or gallops  
CHEST: Mild tenderness to palpation over L anterior inferior rib 
cage. 
LUNG: Mild expiratory wheezes, no rhonchi or crackles 
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: 2+ pitting edema to knees, cool distal extremities 
with 1+ pulses 
NEURO: AAOx3, CN II-XII intact, inattentive with EOMi, Strength 
upper and lower extremities ___, sensation intact to light touch 
bilaterally, reflexes 1+ patellar and biceps, negative pronator 
drift, mild intention tremor with finger nose finger testing

DISCHARGE PHYSICAL EXAM:
Vitals: 97.8 148/64 58 18 100% RA 
Telemetry Sinus Rhythm 56-60, multiple PVCs
Exam:
GENERAL: Alert and attentive, no acute distress  
HEENT: EOMi, PERRLA, MMM, oropharynx clear
NECK: supple  
CARDIAC: RRR, no murmors, rubs or gallops  
CHEST: Breathing comfortably on room air, crackles at the base, 
Mild tenderness to palpation over L anterior inferior rib cage. 
LUNG: Mild expiratory wheezes, no rhonchi or crackles 
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: 2+ pitting edema to knees, cool distal extremities 
with 1+ pulses 
NEURO: AAOx3, CN II-XII intact, inattentive with EOMi, Strength 
and sensation grossly intact, 
 
Pertinent Results:
ADMISSION LABS
___ 06:07PM   WBC-7.5 RBC-3.90* HGB-11.9* HCT-36.7* MCV-94 
MCH-30.5 MCHC-32.4 RDW-14.1 RDWSD-48.8*
___ 06:07PM   PLT COUNT-147*
___ 06:07PM   NEUTS-65.8 ___ MONOS-12.1 EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-4.91 AbsLymp-1.51 AbsMono-0.90* 
AbsEos-0.03* AbsBaso-0.03
___ 06:07PM   ___ PTT-27.5 ___
___ 06:07PM   ALBUMIN-3.4* CALCIUM-8.6 PHOSPHATE-4.1 
MAGNESIUM-1.9
___ 06:07PM   ALT(SGPT)-39 AST(SGOT)-24 CK(CPK)-75 ALK 
PHOS-48 TOT BILI-0.4
___ 06:07PM   ASA-NEG ETHANOL-NEG ACETMNPHN-12 bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 06:07PM   GLUCOSE-99 UREA N-13 CREAT-1.0 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-31 ANION GAP-12
___ 03:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR
___ 03:00PM URINE  RBC-<1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 03:00PM URINE  MUCOUS-RARE
___ 09:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

DISCHARGE LABS
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD Glucose-173* UreaN-13 Creat-0.8 Na-140 
K-4.4 Cl-103 HCO3-30 AnGap-11
___ 05:30AM BLOOD Calcium-8.4 Phos-3.4 Mg-1.9
___ 05:15AM BLOOD calTIBC-203* Ferritn-466* TRF-156*
___ 05:15AM BLOOD Prolact-13
___ 09:50AM BLOOD Valproa-67
___ 09:50AM BLOOD LEVETIRACETAM (KEPPRA)-___

MICROBIOLOGY
___ Urine Culture
URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING
___ EEG
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because of a slower than average but well organized 
background; this pattern is consistent with a mild 
encephalopathy of toxic, metabolic, or anoxic etiologies. 
Interim findings were relayed to the clinical team periodically 
during this recording period.

___ Rib Unilateral (No CXR)
IMPRESSION: 
Left sixth rib fracture.  Possible seventh rib fracture also on 
the left. Pleural or extrapleural thickening appears similar to 
previous radiographs, and there is a small left pleural 
effusion.

___ CXR
IMPRESSION: 
No consolidation or acute cardiopulmonary process.  Improved 
mediastinal widening compared to ___.  Previous left 
seventh rib fracture noted.

___ EEG
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because of a slower than average but well organized 
background; this pattern is consistent with a mild 
encephalopathy of toxic, metabolic, or anoxic etiologies. No 
evidence of ongoing or potential epileptogenesis was seen during 
this recording period. 

___ MRI Head W/ or W/O Contrast
IMPRESSION:
1. Stepwise interval increase in size of a 2.6 x 2.2 x 2.6 cm 
residual left occipital parasagittal meningioma.  This mass 
continues to invade into the adjacent superior sagittal sinus 
with possible occlusion.
2. Interval development of a thin left occipital subdural 
collection as well as a thin rim of perilesional fluid with 
questionable associated increased susceptibility artifact, and 
is suspicious for interval development of small subdural 
hematoma and perilesional hemorrhage.
3. Focus of cortical enhancement inferior to the meningioma that 
may represent a small area of infarction or radiation necrosis.

 
Brief Hospital Course:
___ M w/ PMH meningioma s/p partial resection, radiation, 
cyberknife, also w/ DM, HTN, HLD, with recent admission to ___ 
(___) for altered mental status/ataxia in setting of 
multiple falls presenting with unwitnessed fall. 

#Unwitnessed fall: ___ AM He was found in bed with bloody ear 
presumed to have unwitnessed fall. In OSH ED, cleared CT head 
and CT spine cleared. He was transferred to ___ since his 
neurooncology care is here. Admitted to medicine to determine 
etiology of fall: mechanical vs. seizure vs. syncope. Neurology 
evaluated in the ED, considered AMS as a sign of cognitive 
decline documented in outpatient notes, prolonged post-ictal 
state or even NCSE. 24 hour EEG showed no evidence of 
epileptiform discharges and he does not have an increased 
tendency towards seizure over and above what his Keppra is 
already treating. He was continued on Keppra 750 mg PO TID, 
Divalproex ___ mg PO BID, dexamethasone 4 mg PO, Vitamin B12 and 
Thiamine. His cardiology work up was negative, with no 
arrhythmias on telemetry, negative orthastatics and trop 
negative x1 with no ischemic changes on EKG. Low concern for 
infectious induced toxic metabolic encephalopathy given no 
fever, leukocytosis or s/s infection and negative urine culture. 
No metabolic abnormalities (glucose 99, potassium 4.1). ___ recs 
for return to assisted living facility with home ___.
 
#Injuries from fall: OSH showed negative CT head and C-spine. He 
sustained multiple injuries after his fall, including right ear 
avulsion and left sixth rib fracture. Plastic surgery sutured 
the ear and he is scheduled for follow up in the outpatient 
setting. For the rib fracture, he completed aggressive incentive 
spirometry and pain control with Tylenol prn. 

#Meningioma: MRI showed interval progression of disease with new 
lesions and possible hemorrhage within the lesions. Dr. ___, 
___ patient's ___, was notified and recommended 
outpatient follow-up, which was arranged. Progressive disease 
was not thought to be cause of patient's fall.

#T2DM: He was placed on 10U Lantus BID with HISS (he was 
recently switched to glargine qd at home). 

#Hypertension: continued Losartan 25mg daily. For OSA, placed on 
CPAP, and for GERD, we continued omeprazole. 

======================
TRANSITIONAL ISSUES
======================
# Meningioma with interval progressive disease. Will have follow 
up with Dr. ___ in neuro-oncology.
# T2DM. Recent adjustments to home insulin regimen; discharged 
on glargine 18 units daily. Please continue adjustments to 
diabetes regimen as needed.
# Ear laceration. Will require outpatient plastic surgery 
follow-up in ___ weeks (pending at the time of discharge). 
# Medication changes. None.
# CODE: Full (presumed) 
# EMERGENCY CONTACT HCP: Wife, ___ h: ___ c: 
___ Daughter: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Losartan Potassium 25 mg PO DAILY 
3. Lovastatin 40 mg oral QHS 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Dexamethasone 4 mg PO DAILY 
6. Divalproex (DELayed Release) 750 mg PO BID 
7. FoLIC Acid 1 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Thiamine 100 mg PO DAILY 
10. LevETIRAcetam 750 mg PO TID seizure 
11. Multivitamins 1 TAB PO DAILY 
12. Senna 8.6 mg PO BID 
13. Glargine 18 Units Breakfast

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Cyanocobalamin 1000 mcg PO DAILY  
3.  Dexamethasone 4 mg PO DAILY  
4.  Divalproex (DELayed Release) 750 mg PO BID  
5.  FoLIC Acid 1 mg PO DAILY  
6.  Glargine 18 Units Breakfast
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
18 Units before BKFT; Disp #*1 Syringe Refills:*0 
7.  LevETIRAcetam 750 mg PO TID seizure  
8.  Losartan Potassium 25 mg PO DAILY  
9.  Lovastatin 40 mg oral QHS  
10.  Multivitamins 1 TAB PO DAILY  
11.  Omeprazole 20 mg PO DAILY  
12.  Senna 8.6 mg PO BID  
13.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Mechanical Fall
- Seizure disorder ___ meningioma
- traumatic ear laceration
- Left rib fracture

SECONDARY DIAGNOSIS
-Meningioma
-T2DM on Insulin
-HTN 
-HLD 
-GERD 
-OSA on CPAP

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for an 
unwitnessed fall likely secondary to seizure. We monitored your 
brain waves on EEG which showed no concern for increased risk of 
seizures. Our neurologists evaluated you and believe you should 
continue your home Keppra and valproic acid and you should make 
sure to take them everyday. While you were here, we monitored 
your heart and it showed no signs of abnormal rhythms.

We also repeated MRI ___ ___. On the MRI, we found interval 
increase in meningioma size. Dr. ___ is aware of the MRI 
findings and will follow up with you for your care. The plan is 
to continue Keppra 750 mg PO TID and Divalproex (DELayed 
Release) 750 mg PO BID and Dexamethasone 4 mg PO daily.

Please continue to take all medications as prescribed. Your 
discharge follow-up appointments are outlined below.

We wish you the very best!

Warmly,
Your ___ Team
 
Followup Instructions:
___